US06544985B2
7-Dimethylamino-4-[3-(4-hydroxymethyl-2-methyl-2H-pyrazol-3-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (RS)-[5-dimethylamino-2-(3-{3-[2-methyl-4-(tetrahydro-pyran-2-yloxymethyl)-2H-pyrazol-3-yl]-phenyl}-3-oxo-propionyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester (Example M63) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (272 mg).

reactant | (RS)-[5-dimethylamino-2-(3-{3-[2-methyl-4-(tetrahydro-pyran-2-yloxymethyl)-2H-pyrazol-3-yl]-phenyl}-3-oxo-propionyl-amino)-4-trifluoromethyl-phenyl]-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1N(N=CC1COC1OCCCC1)C)=O)=O | C33H40F3N5O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Dimethylamino-4-[3-(4-hydroxymethyl-2-methyl-2H-pyrazol-3-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2N(N=CC2CO)C)=O)C=C1C(F)(F)F)C | C23H22F3N5O2
